US04325953
4-Phenyl-4-(4-trifluoromethylphenoxy)piperidine
A mixture of 4-phenyl-4-piperidinol (7.1 g, 40 mM), DMSO (50 ml) and sodium hydride (2 g of a 50% dispersion in oil) was heated at 80° until homogenous, cooled to ambient temperature and treated with 4-fluorobenzotrifluoride (6.6 g, 40 mM) in DMSO (10 ml). After 24 hours the reaction mixture was poured on to cold water (250 ml) and extracted with ether (2×250 ml). The combined organic layers were washed with brine, dried and the solvent removed under reduced pressure. The residue was triturated with cyclohexane, filtered and the mother liquors evaporated and the residue triturated with pentane. Sublimation of the resulting crystals at 0.1 mm Hg (bath temp. 100°) gave the title compound (1.5 g), m.p. 104°-5°.

reactant | 4-phenyl-4-piperidinol | 40 mM, 7.1 g | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzotrifluoride | 40 mM, 6.6 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | water | 250 ml | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 4-Phenyl-4-(4-trifluoromethylphenoxy)piperidine | 1.5 g | C1(=CC=CC=C1)C1(CCNCC1)OC1=CC=C(C=C1)C(F)(F)F | C18H18F3NO
